US08217060B2
To a solution of 4-bromo-benzene-1,2-diamine (3.0 g, 16.1 mmol) in anhydrous toluene (50 mL) was added a solution of 3-cyclohexyl-acryloyl chloride (32.5 mmol) in toluene (5 mL). The resulting solution was stirred at 40° C. for 6 h and then treated with p-toluenesulfonic acid (3.0 g, 16.1 mmol). The resulting mixture was heated at reflux for 18 h. allowed to cool to room temperature and concentrated. The residue obtained was partitioned between ethyl acetate and a saturated solution of sodium bicarbonate in water. The layers were separated. The organic layer was washed successively with saturated. sodium bicarbonate, water and brine, then dried over sodium sulfate, filtered and concentrated. The residue was chromatographed on silica with ethyl acetate/hexanes 3:7 to yield 5-bromo-2-(2-cyclohexyl-vinyl)-1H-benzimidazole.

reactant | 4-bromo-benzene-1,2-diamine | 16.1 mmol, 3.0 g | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
reactant | 3-cyclohexyl-acryloyl chloride | 32.5 mmol | C1(CCCCC1)C=CC(=O)Cl | C9H13ClO
reactant | p-toluenesulfonic acid | 16.1 mmol, 3.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-2-(2-cyclohexyl-vinyl)-1H-benzimidazole | BrC1=CC2=C(NC(=N2)C=CC2CCCCC2)C=C1 | C15H17BrN2
